US08067450B2
Step 1: 2-(3-methoxyphenyl)oxirane
To a solution of 3-vinylanisole (5.0 g, 37.0 mmol) and acetic acid (2.1 mL, 37.0 mmol) in dioxane (33 ml) and H2O (78 ml) at 0° C. was added N-bromosuccinimide (7.30 g, 41.0 mmol) in three portions. The reaction was allowed to warm to R.T. and then 2M NaOH (50 ml) was added. The reaction was left to stir at RT overnight. The reaction mixture was then partitioned between water and EtOAc, and the aqueous phase was extracted with EtOAc. The combined organic phases washed with brine, dried (Na2SO4), filtered and evaporated in vacuo to give 5.60 g (100%) of the title compound as a slightly tinted oil.

reactant | 3-vinylanisole | 37.0 mmol, 5.0 g | C(=C)C=1C=C(C=CC1)OC | C9H10O
reactant | acetic acid | 37.0 mmol, 2.1 mL | C(C)(=O)O | C2H4O2
reactant | N-bromosuccinimide | 41.0 mmol, 7.30 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NaOH | 2M, 50 ml | [OH-].[Na+]
solvent | dioxane | 33 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 78 ml | O | H2O
product | 2-(3-methoxyphenyl)oxirane | 5.60 g, 100% | COC=1C=C(C=CC1)C1OC1 | C9H10O2
